US07846929B2
Step A: Preparation of 4-chloro-1H-indazole:
To a 250 ml flask with stirbar was added 2-methyl-3-chloroaniline (8.4 ml, 9.95 g, 70.6 mmol), potassium acetate (8.3 g, 84.7 mmol) and chloroform (120 ml). This mixture was cooled to 0° C. with stirring. To the cooled mixture was added acetic anhydride (20.0 ml, 212 mmol) drop wise over 2 minutes. The reaction mixture was warmed to 25° C. and stirred for 1 hour. At this point, the reaction was heated to 60° C. Isoamyl nitrite (18.9 ml, 141 mmol) was added and the reaction was stirred overnight at 60° C. Once complete, water (75 ml) and THF (150 ml) were added and the reaction was cooled to 0° C. LiOH (20.7 g, 494 mmol) was added and the reaction was stirred at 0° C. for 3 hours. Water (200 ml) was added and the product was extracted with EtOAc (300 ml, 100 ml). The organic layers were combined, dried with MgSO4 and concentrated in vacuo to yield 11.07 g (100%) as an orange solid. 1H NMR (400 MHz, CDCl3) δ 8.18 (d, J=1 Hz, 1H), 7.33 (d, J=8 Hz 1H), 7.31 (t, J=7 Hz, 1H), 7.17 (dd, J=7 Hz, 1 Hz 1H). LCMS (ESI pos) m/e 153 (M+1).

reactant | 2-methyl-3-chloroaniline | 70.6 mmol, 8.4 ml, 9.95 g | CC1=C(N)C=CC=C1Cl | C7H8ClN
reactant | potassium acetate | 84.7 mmol, 8.3 g | C(C)(=O)[O-].[K+]
reactant | acetic anhydride | 212 mmol, 20.0 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | Isoamyl nitrite | 141 mmol, 18.9 ml | N(=O)OCCC(C)C | C5H11NO2
reactant | LiOH | 494 mmol, 20.7 g | [Li+].[OH-]
solvent | Water | 200 ml | O | H2O
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | water | 75 ml | O | H2O
solvent | chloroform | 120 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-chloro-1H-indazole | ClC1=C2C=NNC2=CC=C1 | C7H5ClN2
